US07795273B2
6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid [2-methyl-5-(3-trifluoromethyl-phenylcarbamoyl)-phenyl]-amide
6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carbonyl chloride (200 mg, 0.35 mmol) and 3-amino-4-methyl-N-(3-trifluoromethyl-phenyl)-benzamide are reacted in 2 ml dry pyridine at r.t. for 18 hrs. The solvent is removed under reduced pressure. The product is isolated by automated column chromatography and is dried at the high vacuum pump, yielding the title compound as a white solid.

reactant | 6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carbonyl chloride | 0.35 mmol, 200 mg | CN(S(=O)(=O)C=1C=CC=2N(C1)N=CC2C(=O)Cl)C | C10H10ClN3O3S
reactant | 3-amino-4-methyl-N-(3-trifluoromethyl-phenyl)-benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)C(F)(F)F)C=CC1C | C15H13F3N2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 6-Dimethylsulfamoyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid [2-methyl-5-(3-trifluoromethyl-phenylcarbamoyl)-phenyl]-amide | CC1=C(C=C(C=C1)C(NC1=CC(=CC=C1)C(F)(F)F)=O)NC(=O)C=1C=NN2C1C=CC(=C2)S(N(C)C)(=O)=O | C25H22F3N5O4S
